US07507740B2
Production of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-[(3,4-dimethoxyphenyl)sulfonyl]-5H-pyrrolo[3,2-d]pyrimidin-4-amine
N-{3-Chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine hydrochloride (150 mg) was dissolved in N,N-dimethylformamide (1.5 mL), and potassium carbonate (102 mg) and (3,4-dimethoxyphenyl)sulfonyl chloride (96.9 mg) were sequentially added under ice-cooling. The mixture was stirred under ice-cooling for 2 hrs, and at room temperature for 1 hr. The mixture was diluted with ethyl acetate (50 mL) and washed twice with water (30 mL). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=80:20→0:100) to give the title compound (95 mg) as a powder.

reactant | N-{3-Chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine hydrochloride | 150 mg | Cl.ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2
reactant | potassium carbonate | 102 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (3,4-dimethoxyphenyl)sulfonyl chloride | 96.9 mg | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-[(3,4-dimethoxyphenyl)sulfonyl]-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 95 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2S(=O)(=O)C2=CC(=C(C=C2)OC)OC | C27H22ClFN4O5S
